US04147864
(aix) Approximately one equivalent of ozone (in the form of an O2 /O3 mixture) is passed into a solution, cooled to -70° C., of 3.35 g of 2-[4-(benzoxazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid diphenylmethyl ester in 125 ml of ethyl acetate, until starting material is no longer detectable by thin layer chromatography (silica gel; toluene/ethyl acetate, 3:1). The solution is concentrated by evaporation to about 50 ml in vacuo, mixed with 5 ml of dimethyl sulphide and stirred until the potassium iodide/starch test no longer gives a reaction. The mixture is concentrated by evaporation in vacuo, the residue is dissolved in 150 ml of benzene and the solution is washed with water. The organic phase is dried over sodium sulphate and concentrated by evaporation. The residue is chromatographed on 150 g of acid-washed silica gel, using toluene/ethyl acetate, 4:1. 2-[4-(Benzoxazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester is obtained in the form of a white foam; IR spectrum (methylene chloride): characteristic bands at 5.60, 5.90 and 6.0 μ.

reactant | ozone | one equivalent | O=[O+][O-] | O3
reactant | O2 O3 | O=O.O=[O+][O-]
reactant | 2-[4-(benzoxazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid diphenylmethyl ester | 3.35 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(C(C)=C)N1C(C(C1SSC=1OC2=C(N1)C=CC=C2)NC(COC2=CC=CC=C2)=O)=O)=O | C36H31N3O6S2
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | ethyl acetate | 125 ml | C(C)(=O)OCC | C4H8O2
product | 2-[4-(Benzoxazol-2-yldithio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/O)\N1C(C(C1SSC=1OC2=C(N1)C=CC=C2)NC(COC2=CC=CC=C2)=O)=O)=O | C35H29N3O7S2
